US07446118B2
A mixture of 3-(5-Methoxy-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester XLVIII (37 mg, 0.115 mmol) in EtOH (4 ml) and a catalytic amount of Degoussa-type catalyst Pd/C wet (10%) was subjected to hydrogenation conditions in a Parr apparatus at 60 psi of H2 for 20 hours. The reaction mixture was filtered through celite with MeOH. The filtrate was concentrated and subjected to the same hydrogenation conditions for 24 hours to provide 3-(5-Methoxy-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester XLIX (37 mg) as a yellow oil.

reactant | 3-(5-Methoxy-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C=CNC2=CC=C1OC)=O | C20H19NO3
solvent | EtOH | 4 ml | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3-(5-Methoxy-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester | C(C)OC(CC(C1=CC=CC=C1)C1=C2C=CNC2=CC=C1OC)=O | C20H21NO3
